US08110687B2
A solution of 4M HCl in dioxane (30 mL) was added to tert-butyl [3-({[7-({2-[(cyclopropylcarbonyl)amino]pyridin-4-yl}oxy)-1,2,3,4-tetrahydronaphthalen-2-yl]carbonyl}-amino)-5-(trifluoromethyl)benzyl]carbamate (3.80 g, 6.08 mmol). The suspension was allowed to stir for 2 h. The solvents were evaporated and the residue was purified by column chromatography to give N-[3-(aminomethyl)-5-(trifluoromethyl)phenyl]-7-({2-[(cyclopropylcarbonyl)amino]pyridin-4-yl}oxy)-1,2,3,4-tetrahydronaphthalene-2-carboxamide I-417 (2.60 g, 82%) as a white solid. The HCl salt was prepared by dissolving the solid in DCM and adding 2M HCl in Et2O. The solvents were evaporated. 1H NMR (400 MHz, d6-DMSO, HCl salt) δ: 11.62-11.77 (m, 1H), 10.77 (s, 1H), 8.43 (br s, 2H), 8.22 (d, 1H), 8.06 (s, 1H), 8.03 (s, 1H), 7.59 (s, 1H), 7.33 (s, 1H), 7.24 (d, 1H), 7.04-6.95 (m, 2H), 6.88-6.82 (m, 1H), 4.05-4.11 (m, 2H), 2.99-2.75 (m, 5H), 2.17-1.72 (m, 3H), and 0.91-0.80 (m, 4H). LCMS: (FA) ES+ 525.6, ES− 523.3.

reactant | HCl | 4M | Cl | ClH
reactant | tert-butyl [3-({[7-({2-[(cyclopropylcarbonyl)amino]pyridin-4-yl}oxy)-1,2,3,4-tetrahydronaphthalen-2-yl]carbonyl}-amino)-5-(trifluoromethyl)benzyl]carbamate | 6.08 mmol, 3.80 g | C1(CC1)C(=O)NC1=NC=CC(=C1)OC1=CC=C2CCC(CC2=C1)C(=O)NC=1C=C(CNC(OC(C)(C)C)=O)C=C(C1)C(F)(F)F | C33H35F3N4O5
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | N-[3-(aminomethyl)-5-(trifluoromethyl)phenyl]-7-({2-[(cyclopropylcarbonyl)amino]pyridin-4-yl}oxy)-1,2,3,4-tetrahydronaphthalene-2-carboxamide | NCC=1C=C(C=C(C1)C(F)(F)F)NC(=O)C1CC2=CC(=CC=C2CC1)OC1=CC(=NC=C1)NC(=O)C1CC1 | C28H27F3N4O3
